US07173031B2
A) 2-Oxo-5-phenyl-1,2-dihydropyridine-3-carboxylic acid
A mixture of 5-bromo-2-hydroxynicotinic acid (436 mg, 2.00 mmol, Syn. Comm., 19 (3&4), 553–559 (1989)), phenylboronic acid (248 mg, 2.03 mmol), Cs2CO3 (1.20 g) and PdCl2 [(t-Bu)2P(OH)]2 (170 mg, CombiPhos Catalysts, Inc. Princeton, N.J.) in DMF (10 mL) and water (1.0 mL) was purged with Ar gas and heated at 110° C. for 6 h. Additional phenylboronic acid (75 mg) was added and the mixture was heated at 110° C. for 5 h. To the reaction was added TFA (3 mL), and the mixture was concentrated in vacuo to a volume of ˜12 mL. The mixture was purified by preparative HPLC to afford the desired product (78 mg, 18%). 1H NMR (DMF-d7) δ 14.8 (br s, 1H), 13.8 (br s, 1H), 8.73 (s, 1H), 8.46 (s, 1H), 7.74 (d, 1H, J=7.2 Hz), 7.53–7.42 (m, 3H), 5.81 (s, 1H).

reactant | 5-bromo-2-hydroxynicotinic acid | 2.00 mmol, 436 mg | BrC=1C=NC(=C(C(=O)O)C1)O | C6H4BrNO3
reactant | phenylboronic acid | 2.03 mmol, 248 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | Cs2CO3 | 1.20 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | 1.0 mL | O | H2O
product | 2-Oxo-5-phenyl-1,2-dihydropyridine-3-carboxylic acid | 78 mg, 18% | O=C1NC=C(C=C1C(=O)O)C1=CC=CC=C1 | C12H9NO3
